US04859683
1-Benzoxepin-2-one
To 100 g of m-chloroperbenzoic acid in 1 l of chloroform at 0° C. is added dropwise 100 g of α-tetralone in 250 ml chloroform. After 5 days of stirring at room temperature the reaction mixture is treated carefully with 1 l sat. NaHCO3 and stirred for 1/2 hour. The organic layer is separated, washed with 500 ml of water and solid NaHCO3 until no evolution of gas. The organic layer is separated washed with sat. NaHCO3 and water and dried (MgSO4) After filtering and concentrating to dryness it is vaccum distilled to obtain low melting material which is used directly in the next step.

reactant | m-chloroperbenzoic acid | 100 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | α-tetralone | 100 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | NaHCO3 | 1 l | C(=O)(O)[O-].[Na+]
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzoxepin-2-one | O1C(CC=CC2=C1C=CC=C2)=O | C10H8O2
